US06677368B2
To a solution of 4-(4-trifluoromethoxy-phenyl)-1,3-dihydro-indol-2-one (73.3 mg, 0.25 mmol) and 3,5-dimethyl-4-(4-methyl-piperazine-1-carbonyl)-1H-pyrrole-2-carbaldehyde (64.8 mg, 0.26 mmol) in ethanol (2 mL) was added piperidine (3 drops). The reaction mixture was stirred at room temperature for three days. The solvent was evaporated and the solid was washed by ether for three times to provide pure product 3-[3,5-dimethyl-4-(4-methyl-piperazine-1-carbonyl)-1H-pyrrol-2-ylmethylene]-4-(4-trifluoromethoxy-phenyl)-1,3-dihydro-indol-2-one (79.9 mg, 61%).

reactant | 4-(4-trifluoromethoxy-phenyl)-1,3-dihydro-indol-2-one | 0.25 mmol, 73.3 mg | FC(OC1=CC=C(C=C1)C1=C2CC(NC2=CC=C1)=O)(F)F | C15H10F3NO2
reactant | 3,5-dimethyl-4-(4-methyl-piperazine-1-carbonyl)-1H-pyrrole-2-carbaldehyde | 0.26 mmol, 64.8 mg | CC1=C(NC(=C1C(=O)N1CCN(CC1)C)C)C=O | C13H19N3O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
product | 3-[3,5-dimethyl-4-(4-methyl-piperazine-1-carbonyl)-1H-pyrrol-2-ylmethylene]-4-(4-trifluoromethoxy-phenyl)-1,3-dihydro-indol-2-one | 79.9 mg, 61% | CC1=C(NC(=C1C(=O)N1CCN(CC1)C)C)C=C1C(NC2=CC=CC(=C12)C1=CC=C(C=C1)OC(F)(F)F)=O | C28H27F3N4O3
